US09079880B2
Synthesis of 3-[1-(3,4-dimethoxy-benzoyl)-pyrrolidin-2-yl]-N-(5-methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-benzamide (Compound 69)
Stir a solution of 3,4-dimethoxybenzoic acid (49 mg, 0.265 mmol) and CDI (44 mg, 0.265 mmol) in DMF (2.5 mL) for 10 min at room temperature. Add the N-(5-Methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-3-pyrrolidin-2-yl-benzamide di-HCl (100 mg, 0.241 mmol) followed by Et3N (0.118 mL, 0.844 mmol), and stir the solution at room temperature for 24 h. Purify the crude reaction by reverse-phase prep-HPLC (10% to 90% CH3CN/water). Concentrate the fractions containing product to give the title compound as a solid (100 mg). MS, electrospray 507.5 (M+H), rt 1.13 min.

reactant | 3,4-dimethoxybenzoic acid | 0.265 mmol, 49 mg | COC=1C=C(C(=O)O)C=CC1OC | C9H10O4
reactant | CDI | 0.265 mmol, 44 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N-(5-Methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-3-pyrrolidin-2-yl-benzamide di-HCl | 0.241 mmol, 100 mg | Cl.Cl.CN1CC2=C(CC1)N=C(S2)NC(C2=CC(=CC=C2)C2NCCC2)=O
reactant | Et3N | 0.844 mmol, 0.118 mL | CCN(CC)CC | C6H15N
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | 3-[1-(3,4-dimethoxy-benzoyl)-pyrrolidin-2-yl]-N-(5-methyl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-yl)-benzamide | 100 mg | COC=1C=C(C(=O)N2C(CCC2)C=2C=C(C(=O)NC=3SC=4CN(CCC4N3)C)C=CC2)C=CC1OC | C27H30N4O4S
